US04814329
Phenyl-(2-(2-propenylthio)-benzimidazole-5-yl)-methanone hydrochloride
6.55 g (25.76 mmoles) of 5-benzoyl-benzimidazol-2-thione, 2.45 ml of allyl chloride and 40 ml of ethanol are refluxed for 20 hours, thereafter further 2.45 ml of allyl chloride are added and the mixture is refluxed for further 5 hours. The product precipitates upon cooling. The weight (86.7%). M.p.: 182°-183° C. (after recrystallization from isopropanol)

reactant | 5-benzoyl-benzimidazol-2-thione | 25.76 mmoles, 6.55 g | C(C1=CC=CC=C1)(=O)C1=CC=2C(=NC(N2)=S)C=C1 | C14H8N2OS
reactant | allyl chloride | 2.45 ml | C(C=C)Cl | C3H5Cl
reactant | allyl chloride | 2.45 ml | C(C=C)Cl | C3H5Cl
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | Phenyl-(2-(2-propenylthio)-benzimidazole-5-yl)-methanone hydrochloride | Cl.C1(=CC=CC=C1)C(=O)C1=CC2=C(N=C(N2)SCC=C)C=C1 | InChI=1S/C17H14N2OS.ClH/c1-2-10-21-17-18-14-9-8-13(11-15(14)19-17)16(20)12-6-4-3-5-7-12;/h2-9,11H,1,10H2,(H,18,19);1H
